US05223513
To a mixture of 2-amino-4,5,2'-trimethylbenzophenone (4.8 g), triethylamine (5.6 ml) and ethyl acetate (80 ml) was dropwise added methyl malonyl chloride (4.88 g) under ice-cooling and stirring. The mixture was stirred for an hour under ice-cooling, washed with water, dried (MgSO4) and concentrated to remove the solvent. The oily product was dissolved in toluene (60 ml), and DBU (0.3 g) was added to the solution. The solution was refluxed for 30 minutes with removal of water using Dean-Stark's apparatus. The resulting solution was washed with diluted hydrochloric acid and water, dried (MgSO4) and concentrated to obtain methyl 1,2-dihydro-6,7-dimethyl-4-(2-methylphenyl) -2-oxo-3-quinolinecarboxylate as crystals (5.3g, 82.6%}. Recrystallization from ethanol - chloroform gave colorless needles. mp 288°-289° C.

reactant | 2-amino-4,5,2'-trimethylbenzophenone | 4.8 g | NC1=C(C(=O)C2=C(C=CC=C2)C)C=C(C(=C1)C)C | C16H17NO
reactant | triethylamine | 5.6 ml | C(C)N(CC)CC | C6H15N
reactant | methyl malonyl chloride | 4.88 g | CC(C(=O)Cl)C(=O)Cl | C4H4Cl2O2
reactant | ethyl acetate | 80 ml | C(C)(=O)OCC | C4H8O2
product | methyl 1,2-dihydro-6,7-dimethyl-4-(2-methylphenyl) -2-oxo-3-quinolinecarboxylate | CC=1C=C2C(=C(C(NC2=CC1C)=O)C(=O)OC)C1=C(C=CC=C1)C | C20H19NO3
